US05684003
To a solution of 9-(n-butyl)-3-oxa-9-azabicyclo-[3.3.1]-nonan-7-one (28 g) in ethanol (150 ml) were added in turn pyridine (18.0 ml) and hydroxylamine hydrochloride (11.9 g) and the mixture was heated under reflux for 40 minutes. To the reaction solution were added water (29 ml) and potassium carbonate (57.9 g), the mixture was stirred for 30 minutes and dried over potassium carbonate. The solvent was distilled off under reduced pressure to give the crude 9-(n-butyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-one oxime. This product was employed for the sebsequent reaction without any purification.

reactant | 9-(n-butyl)-3-oxa-9-azabicyclo-[3.3.1]-nonan-7-one | 28 g | C(CCC)N1C2COCC1CC(C2)=O | C11H19NO2
reactant | pyridine | 18.0 ml | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 11.9 g | Cl.NO
reactant | potassium carbonate | 57.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 29 ml | O | H2O
product | 9-(n-butyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-one oxime | C(CCC)N1C2COCC1CC(C2)=NO | C11H20N2O2
